US04728644
A mixture obtained by grinding homogeneously 5 g of 4,5-diamino-6-diethylaminopyrimidine and 3.4 g of isonicotinic acid in a mortar is added to 110 ml of phosphorus oxychloride under stirring, and refluxed with heating for 3 hours. The reaction solution is concentrated and 180 ml of water is added to the residual oil. The resulting solution is neutralized with an ammonia solution and the precipitated crystals are filtered and washed with water. Recrystallization from ethanol gives 3.4 g of 6-diethylamino-8-(4-pyridyl)purine, melting at 260°-262° C.

reactant | 4,5-diamino-6-diethylaminopyrimidine | 5 g | NC1=NC=NC(=C1N)N(CC)CC | C8H15N5
reactant | isonicotinic acid | 3.4 g | C(C1=CC=NC=C1)(=O)O | C6H5NO2
solvent | phosphorus oxychloride | 110 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 6-diethylamino-8-(4-pyridyl)purine | 3.4 g | C(C)N(C1=C2NC(=NC2=NC=N1)C1=CC=NC=C1)CC | C14H16N6
